US08252935B2
a) 4-Methyl-2-(4′-trifluoromethyl-5-{1-[1-(4-trifluoromethyl-phenyl)-ethyl]-piperidin-3-yl}-biphenyl-3-yl)-pentanoic acid ethyl ester
To compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (75 mg, 0.17 mmol), was added 4-Trifluoromethylacetophenonne (34 mg, 0.18 mmol), and titanium isopropoxide (76 mg), 0.27 mmol) under argon at room temperature. After 3 hours, add methanol ((0.76 ml), followed by sodium borohydride (10 mg, 0.27 mmol). After 5 minutes, the reaction was quenched with 0.1 N NaOH, filtered through celite and washed with dichloromethane. The solution was concentrated in vacuo, then diluted with dichloromethane, and washed with NaHCO3, and brine, and dried over magnesium sulfate. The reaction was concentrated in vacuo, and purified by silica gel chromatography to give two diastereomeric mixtures (S* and R*, tentative assignments); Calcd for C35H39F6NO2 (M+H) 619.68, Found 520.4

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.17 mmol, 75 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | sodium borohydride | 0.27 mmol, 10 mg | [BH4-].[Na+]
catalyst | titanium isopropoxide | 76 mg | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | methanol | CO | CH4O
product | 4-Methyl-2-(4′-trifluoromethyl-5-{1-[1-(4-trifluoromethyl-phenyl)-ethyl]-piperidin-3-yl}-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)C(C)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C35H39F6NO2
